US05089514
To a solution of 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]aniline (U.S. Pat. No. 4,725,610) (3.7 g, 12.6 mmol) in acetone (50 ml) and methanol (50 ml), cooled to 0° C., was added 48% hydrobromic acid (6.2 ml, 54 mmol), and after 5 minutes a solution of sodium nitrite (1.0 g, 15 mmol) in water (5 ml), dropwise, keeping the temperature below 5° C. After 15 minutes ethyl acrylate (8.6 ml, 79 mmol) was added dropwise, the mixture was warmed to 38° C. and cuprous oxide (0.42 g, 2.9 mmol) was added. The solution was stirred 1 hour at 40° C., then concentrated, diluted with aqueous ammonia and extracted with ethyl acetate (3 x 30 ml). The combined extracts were washed with water (2 ×), brine, dried over magnesium sulfate and concentrated. The product, ethyl alpha-bromo-4-[ 2-(5-methyl-2- phenyl-4-oxazolyl)ethoxy]benzenepropanoate, was isolated by flash chromatography (hexane/ethyl acetate, 4:1) as a yellow oil (1.17 g).

reactant | 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]aniline | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(N)C=C1 | C18H18N2O2
reactant | hydrobromic acid | 54 mmol, 6.2 ml | Br | BrH
reactant | sodium nitrite | 15 mmol, 1.0 g | N(=O)[O-].[Na+]
reactant | ethyl acrylate | 79 mmol, 8.6 ml | C(C=C)(=O)OCC | C5H8O2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | ethyl alpha-bromo-4-[ 2-(5-methyl-2- phenyl-4-oxazolyl)ethoxy]benzenepropanoate | BrC(C(=O)OCC)CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C23H24BrNO4
